US06284774B1
Step B: Preparation of 5-chloro-6-sulfanyl-3H-benzooxazol-2-one
Zinc dust (14.4 g, 0.22 mol) was added to a solution of mercuric chloride (2.86 g, 10.6 mmol) in water (42 mL) and concentrated hydrochloric acid (1.7 mL). The mixture was stirred for 15 min and the supernatant poured off. The residue was washed with water (2×15 mL), ethanol (2×15 mL) and diethyl ether (2×15 mL). 5-chloro-6-chlorosulfonyl-3H-benzooxazol-2-one (12.3 g, 46 mmol) and ethanol (70 mL) were added to the residue and the mixture placed in an ice-bath. Concentrated hydrochloric acid (36 mL) was added via addition funnel over 15 min and the resulting mixture stirred at reflux for 18 hours. The cooled reaction mixture was poured into ice-cold water (300 mL) and stirred for 20 min. The precipitate was collected to give 9.5 g of a white powder.

reactant | 5-chloro-6-chlorosulfonyl-3H-benzooxazol-2-one | 46 mmol, 12.3 g | ClC=1C(=CC2=C(NC(O2)=O)C1)S(=O)(=O)Cl | C7H3Cl2NO4S
reactant | ethanol | 70 mL | C(C)O | C2H6O
solvent | water | 42 mL | O | H2O
solvent | hydrochloric acid | 1.7 mL | Cl | ClH
catalyst | Zinc | 0.22 mol, 14.4 g | [Zn] | Zn
solvent | hydrochloric acid | 36 mL | Cl | ClH
product | 5-chloro-6-sulfanyl-3H-benzooxazol-2-one | 9.5 g | ClC=1C(=CC2=C(NC(O2)=O)C1)S | C7H4ClNO2S
